US06949680B2
c) Synthesis of 4,8-dimethyl-1-(2-phenyl-1, 3-dioxolan-2-yl)-7-nonen-4-ol
A Grignard reagent of 3.50 g (0.021 mol) of 5-bromo-2-methyl-2-pentene in 13 ml of ether and 0.62 g (0.026 mol) of magnesium turnings in 14 ml of ether was added slowly at −25° under N2 to a stirred solution of 5.54 g (0.024 mol) of 5-(2-phenyl-1,3-dioxolan-2-yl)-2-pentanone obtained under b) in 20 ml of ether. During the introduction, the temperature was left rising up to −5° C. and the reaction mixture left stirring for 45 min. Then a saturated solution of NH4Cl was added and the formation of a white precipitate was observed. Extraction with ether (2×), washing with water (3×), drying (Na2SO4) and concentrating gave 6.24 g of the crude product. Column chromatography (SiO2, heptane/ether 7:3) gave 2.53 g (38%) of a yellow oil.

reactant | 5-bromo-2-methyl-2-pentene | 0.021 mol, 3.50 g | BrCCC=C(C)C | C6H11Br
reactant | magnesium | 0.026 mol, 0.62 g | [Mg] | Mg
reactant | 5-(2-phenyl-1,3-dioxolan-2-yl)-2-pentanone | 0.024 mol, 5.54 g | C1(=CC=CC=C1)C1(OCCO1)CCCC(C)=O | C14H18O3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 13 ml | CCOCC | C4H10O
solvent | ether | 14 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | heptane ether | CCCCCCC.CCOCC
product | 4,8-dimethyl-1-(2-phenyl-1, 3-dioxolan-2-yl)-7-nonen-4-ol | 2.53 g, 38% | CC(CCCC1(OCCO1)C1=CC=CC=C1)(CCC=C(C)C)O | C20H30O3
